US07041685B2
5-(6-Chloro-pyridin-3-yl)-2-(3-chloro-thiophen-2-yl)-[1,3,4]-oxadiazole
6-Chloro-nicotinic acid N′-(3-chloro-thiophene-2-carbonyl)-hydrazide: A solution of 3-chloro-thiophene-2-carbonyl hydrazide (70 mg, 0.40 mmol), 6-chloronicotinoyl chloride (76 mg, 0.43 mmol) and dichloromethane (10 mL) was stirred for 5 min. To the solution was added saturated sodium bicarbonate solution (10 mL) and it was stirred for 5 min. The layers were separated and the aqueous phase was extracted with dichloromethane (8×10 mL). Ethyl acetate (50 mL) was added to the combined organic phases, which were dried over anhydrous sodium sulfate, decanted, and concentrated to yield 120 mg (96%) of the title compound as a white powder. 1H NMR (DMSO-d6): 10.89 (s, 1H), 10.37 (s, 1H), 8.89 (d, J=2.19 Hz, 1H), 8.30 (dd, J=8.52, 2.48 Hz, 1H), 7.93 (d, J=5.22 Hz, 1H), 7.72 (d, J=8.25 Hz, 1H), 7.22 (d, J=5.22 Hz, 1H).

reactant | 6-Chloro-nicotinic acid N′-(3-chloro-thiophene-2-carbonyl)-hydrazide | ClC1=C(SC=C1)C(=O)NNC(C1=CN=C(C=C1)Cl)=O | C11H7Cl2N3O2S
reactant | 6-chloronicotinoyl chloride | 0.43 mmol, 76 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-(6-Chloro-pyridin-3-yl)-2-(3-chloro-thiophen-2-yl)-[1,3,4]-oxadiazole | 120 mg, 96% | ClC1=CC=C(C=N1)C1=NN=C(O1)C=1SC=CC1Cl | C11H5Cl2N3OS
